US04649146
To a mixture of 3-[3-(pyrrolidin-1-ylmethyl)phenoxy]propylamine (2.33 g) and phosphorus trichloride (0.44 ml) in pyridine (20 ml) was added 2-amino-5-(4-pyridyl)-4-thiazolecarboxylic acid (1.1 g) and the mixture was stirred at 80° C. for 3 hours. The reaction mixture was evaporated in vacuo and the residue was dissolved in a mixture of ethyl acetate and water. The resultant mixture was adjusted to pH 1.0 with 10% hydrochloric acid. The separated aqueous layer was adjusted to pH 8 with saturated potassium carbonate and extracted with chloroform. The solvent was dried over magnesium sulfate and evaporated in vacuo. The residue was subjected to column chromatography on alumina eluting with a mixture of ethyl acetate and tetrahydrofuran (3:7). The fractions containing the desired compound were combined and evaporated in vacuo. To the oily residue was added a solution of ethyl acetate and hydrochloric acid. The precipitate was collected by filtration and dried over phosphorus pentoxide in vacuo to afford 2-amino-5-(4-pyridyl)-4-[ 3-[3-(pyrrolidin-1-yl-methyl)phenoxy]propylcarbamoyl]thiazole hydrochloride (0.34 g).

reactant | 3-[3-(pyrrolidin-1-ylmethyl)phenoxy]propylamine | 2.33 g | N1(CCCC1)CC=1C=C(OCCCN)C=CC1 | C14H22N2O
reactant | phosphorus trichloride | 0.44 ml | P(Cl)(Cl)Cl | Cl3P
reactant | 2-amino-5-(4-pyridyl)-4-thiazolecarboxylic acid | 1.1 g | NC=1SC(=C(N1)C(=O)O)C1=CC=NC=C1 | C9H7N3O2S
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 2-amino-5-(4-pyridyl)-4-[ 3-[3-(pyrrolidin-1-yl-methyl)phenoxy]propylcarbamoyl]thiazole hydrochloride | 0.34 g | Cl.NC=1SC(=C(N1)C(NCCCOC1=CC(=CC=C1)CN1CCCC1)=O)C1=CC=NC=C1 | InChI=1S/C23H27N5O2S.ClH/c24-23-27-20(21(31-23)18-7-10-25-11-8-18)22(29)26-9-4-14-30-19-6-3-5-17(15-19)16-28-12-1-2-13-28;/h3,5-8,10-11,15H,1-2,4,9,12-14,16H2,(H2,24,27)(H,26,29);1H
